US05123951
Diethyl methoxymalonate (31.0 grams, 0.2 mole), prepared in Example LIII Part A, sodium hydride (3.91 grams of 60% reagent, 0.2 mole), methyl iodide (46.27 grams, 0.3 mole) and 15-crown-5 (2 drops) were reacted in 300 milliliters of N,N-dimethylformamide in a manner similar to that described in Example LII Part A to give 23.77 grams (0.1 mole) of diethyl methoxy(methyl)malonate. NMR analysis of the product indicated the following:

reactant | Diethyl methoxymalonate | 0.2 mole, 31.0 grams | COC(C(=O)OCC)C(=O)OCC | C8H14O5
reactant | sodium hydride | 0.2 mole, 3.91 grams | [H-].[Na+]
reactant | methyl iodide | 0.3 mole, 46.27 grams | CI | CH3I
catalyst | 15-crown-5 | 2 drops | C1COCCOCCOCCOCCO1 | C10H20O5
solvent | N,N-dimethylformamide | 300 milliliters | CN(C=O)C | C3H7NO
product | diethyl methoxy(methyl)malonate | 0.1 mole, 23.77 grams | COC(C(=O)OCC)(C(=O)OCC)C | C9H16O5
